US06479672B1
Preparation of Zinc(II)Chloride·1-[2-(Dimethylamino)ethyl]-4-methylpiperazine Complex
To a solution of zinc (II) chloride in tetrahydrofuran(0.5M, 300 mL, 150 mmol) was added dropwise 1-[2-(dimethylamino)ethyl]-4-methylpiperazine (38.54 g, 225 mmol) below 20° C. under nitrogen atmosphere. The slurry was stirred at room temperature for 4 hrs., and filtered under nitrogen flow. The cake was washed with dry tetrahydrofuran(100 mL), and dried at room temperature under reduced pressure overnight. The title compound (47.56 g, quantitative yield) was obtained as colorless crystals. mp: ca. 260° C.(dec.). IR(KBr, cm−1): 3,430; 2,960; 2,870; 2,820; 1,490; 1,330; 1,190; 1,140; 1,040; 990; 860

reactant | zinc (II) chloride | [Cl-].[Zn+2].[Cl-]
reactant | tetrahydrofuran | 150 mmol, 0.5M, 300 mL | O1CCCC1 | C4H8O
reactant | 1-[2-(dimethylamino)ethyl]-4-methylpiperazine | 225 mmol, 38.54 g | CN(CCN1CCN(CC1)C)C | C9H21N3
product | Zinc(II)Chloride·1-[2-(Dimethylamino)ethyl]-4-methylpiperazine | 47.56 g, quantitative yield | [Cl-].[Zn+2].[Cl-].CN(CCN1CCN(CC1)C)C | InChI=1S/C9H21N3.2ClH.Zn/c1-10(2)4-7-12-8-5-11(3)6-9-12;;;/h4-9H2,1-3H3;2*1H;/q;;;+2/p-2
